US08536187B2
5-Aminomethyl-N-tert-butyl-2-fluoro-benzenesulfonamide was synthesized in a manner analogous to 4-Aminomethyl-N-tert-butyl-3-methyl-benzenesulfonamide in Example 4, using 5-chloro-2-fluorobenzene-1-sulfonyl chloride in place of 4-bromo-3-methylbenzene-1-sulfonyl chloride. In the second step NMP was used as the solvent, Pd(dppf)Cl2 alone was used as catalyst and the reaction mixture was stirred at 120° C. for 15 hours.

reactant | 4-Aminomethyl-N-tert-butyl-3-methyl-benzenesulfonamide | NCC1=C(C=C(C=C1)S(=O)(=O)NC(C)(C)C)C | C12H20N2O2S
reactant | 5-chloro-2-fluorobenzene-1-sulfonyl chloride | ClC=1C=CC(=C(C1)S(=O)(=O)Cl)F | C6H3Cl2FO2S
reactant | NMP | CN1CCCC1=O | C5H9NO
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-Aminomethyl-N-tert-butyl-2-fluoro-benzenesulfonamide | NCC=1C=CC(=C(C1)S(=O)(=O)NC(C)(C)C)F | C11H17FN2O2S
